US07482456B2
Step 1: methyl 6-amino-4′-(methylthio)-1,1′-biphenyl-3-carboxylate
Prepared according to the general procedure Coupling-1 (CsF, DME, 20° C.) using [4-(methylthio)phenyl]boronic acid and methyl 4-amino-3-iodo-benzoate as starting material. Flash chromatography (Hexane:EtOAc, 70:30) afforded the title compound as a white solid.

reactant | CsF | [F-].[Cs+]
reactant | DME | COCCOC | C4H10O2
reactant | [4-(methylthio)phenyl]boronic acid | CSC1=CC=C(C=C1)B(O)O | C7H9BO2S
reactant | methyl 4-amino-3-iodo-benzoate | NC1=C(C=C(C(=O)OC)C=C1)I | C8H8INO2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | Hexane | CCCCCC | C6H14
product | methyl 6-amino-4′-(methylthio)-1,1′-biphenyl-3-carboxylate | NC1=CC=C(C=C1C1=CC=C(C=C1)SC)C(=O)OC | C15H15NO2S
